US08084395B2
7.8 g (19 mmoles) of Benzyl-{4-[3-(4-fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-yl}-amine is suspended at room temperature in 40 mL of concentrated sulfuric acid. After 1 hour, the reaction is poured into ice (250 g) and kept at 0° C. while adding 170 mL of concentrated sodium hydroxide solution to reach pH=10. The resulting precipitate is filtered, suspended again in hot water and stirred at reflux for 1 hour. The reaction mixture is then filtered again and washed with hot water to give 6 g of 4-[3-(4-Fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-ylamine as white solid.

reactant | Benzyl-{4-[3-(4-fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-yl}-amine | 19 mmoles, 7.8 g | C(C1=CC=CC=C1)NC1=NC=CC(=C1)C1=C(C2=NC=C(C=C2N1)C)C1=CC=C(C=C1)F | C26H21FN4
reactant | sodium hydroxide | 170 mL | [OH-].[Na+]
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 4-[3-(4-Fluoro-phenyl)-6-methyl-1H-pyrrolo[3,2-b]pyridin-2-yl]-pyridin-2-ylamine | 6 g | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=C(C2)C)C2=CC(=NC=C2)N | C19H15FN4
